US05371080
3-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-6-methyl-5-morpholino-imidazo[1,5-a]-quinazoline (Compound 2)
A mixture of 2-chloro-5-methyl-4-morpholino-quinazoline (1.68 g, 6.4 mmol) and 3-cyclopropyl-5-isocyanomethyl-1,2,4-oxadiazole (1.9 g) in 15 ml of dry dimethylformamide was cooled to 0° C. Solid potassium tert-butoxide (1.4 g, 12.5 mmol) was added gradually during 5 min. to the stirred mixture, the temperature being kept below 10° C. The mixture was stirred at ambient temperature for two hors, and then cooled to 0° C. The precipitated crystals were collected by filtration, rinsed on the filter with ethyl acetate and water, and dried to give the title compound as light yellow crystals, m.p. 262°-266° C. Yield 1.29 g.

reactant | 2-chloro-5-methyl-4-morpholino-quinazoline | 6.4 mmol, 1.68 g | ClC1=NC2=CC=CC(=C2C(=N1)N1CCOCC1)C | C13H14ClN3O
reactant | 3-cyclopropyl-5-isocyanomethyl-1,2,4-oxadiazole | 1.9 g | C1(CC1)C1=NOC(=N1)C[N+]#[C-] | C7H7N3O
reactant | potassium tert-butoxide | 12.5 mmol, 1.4 g | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-6-methyl-5-morpholino-imidazo[1,5-a]-quinazoline | C1(CC1)C1=NOC(=N1)C=1N=CN2C1N=C(C1=C(C=CC=C21)C)N2CCOCC2 | C20H20N6O2
